US04032652
Similarly, m-hydroxyaniline and o-hydroxyaniline are reacted with an equimolar amount of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in methanol to give the respective products, 5-acetyl-4-hydroxy-3-[1-(m-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 213°-216° C., and 5-acetyl-4-hydroxy-3-[1-(o-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 210°-212° C.

reactant | o-hydroxyaniline | OC1=C(N)C=CC=C1 | C6H7NO
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(o-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=C(C=CC=C1)O)O | C15H13NO6
